US06333330B1
Ethyl 4-amino-3-(pyridin-2-yl)-1H-pyrazole-5-carboxylate
2-Pyridylacetonitrile (10 ml, 94.0 mmol) was added dropwise over 20 minutes to an ice-cooled solution of sodium ethoxide (34 ml, 2.76M, 94.0 mmol) in ethanol (50 ml), and the mixture stirred at 0° C. for 30 minutes. Ethyldiazoacetate (9.9 ml, 94.0 mmol) was added dropwise over 15 minutes and the reaction allowed to warm to room temperature and stirred for a furter 18 hours. Water (300 ml) was added, the mixture neutralised with solid carbon dioxide, and the resulting precipitate filtered and dried to afford the title compound, (13.0 g, 60%) as a brown solid.

reactant | 2-Pyridylacetonitrile | 94.0 mmol, 10 ml | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | sodium ethoxide | 94.0 mmol, 2.76M, 34 ml | [O-]CC.[Na+]
reactant | Ethyldiazoacetate | 94.0 mmol, 9.9 ml | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | Water | 300 ml | O | H2O
product | Ethyl 4-amino-3-(pyridin-2-yl)-1H-pyrazole-5-carboxylate | 13.0 g, 60% | NC=1C(=NNC1C(=O)OCC)C1=NC=CC=C1 | C11H12N4O2
